US08133998B2
To a mixture of 3-(2-(diethylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid (0.12 g, 0.37 mmol) in DCM (5 mL) was added DIEA (0.2 mL, 1.1 mmol), 4(3,4-dichlorophenyl)piperazine (0.073 g, 0.37 mmol), and HATU (0.182 g, 0.48 mmol). The reaction mixture was stirred at RT overnight. The organic layer was diluted with CH2Cl2 and then washed with sat. NaHCO3 aq. (20 mL), dried over Na2SO4, and concentrated to give crude product as a gummy solid. Purification by flash column chromatography using a mixture of Et2O: DCM (1:1) as the eluant afforded the 0.092 g of 2-(6-(4-(3,4-dichlorophenyl)piperazine-1-carbonyl)-5-methyl-4-oxo thieno[2,3-d]pyrimidin-3(4H)-yl)-N,N-diethylacetamide, (yield: 50%).

reactant | 3-(2-(diethylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | 0.37 mmol, 0.12 g | C(C)N(C(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)O)C)=O)CC | C14H17N3O4S
reactant | DIEA | 1.1 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4(3,4-dichlorophenyl)piperazine | 0.37 mmol, 0.073 g | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | HATU | 0.48 mmol, 0.182 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-(4-(3,4-dichlorophenyl)piperazine-1-carbonyl)-5-methyl-4-oxo thieno[2,3-d]pyrimidin-3(4H)-yl)-N,N-diethylacetamide | 0.092 g, yield: 50% | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C(=O)C1=C(C2=C(N=CN(C2=O)CC(=O)N(CC)CC)S1)C | C24H27Cl2N5O3S
